*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-03[uF]/50[V]
* Murata P/N :GCM155R71H472KA37
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71H472KA37 Port1 Port2
C01 Port1 N01 4.72e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.55e-10
R03 N02 N03 1.02e-01
C04 N03 N04 5.03e-07
R04 N03 N04 3.90e+03
C05 N04 N05 6.86e-07
R05 N04 N05 2.09e+02
C06 N05 N06 6.11e-07
R06 N05 N06 2.05e+01
C07 N06 N07 4.73e-07
R07 N06 N07 2.24e+00
C08 N07 N08 3.10e-07
R08 N07 N08 3.59e-01
C09 N08 N09 1.53e-07
R09 N08 N09 6.95e-02
C10 N09 N10 1.54e-07
R10 N09 N10 2.07e-02
L11 N10 N11 4.76e-11
R11 N10 N11 1.87e-01
C12 N11 N12 6.41e-09
L12 N11 N12 1.95e-11
R12 N11 N12 5.60e-02
C13 N12 Port2 2.26e-12
L13 N12 Port2 1.32e-10
R13 N12 Port2 1.79e+01
.ENDS GCM155R71H472KA37
