*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+01[uF]/6.3[V]
* Murata P/N :GRJ155R60J106ME11
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRJ155R60J106ME11 Port1 Port2
C01 Port1 N01 8.18e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.59e-10
R03 N02 N03 8.24e-03
C04 N03 N04 4.36e-04
R04 N03 N04 3.76e+00
C05 N04 N05 5.82e-04
R05 N04 N05 2.92e-01
C06 N05 N06 6.20e-04
R06 N05 N06 3.43e-02
C07 N06 N07 4.07e-04
R07 N06 N07 4.50e-03
L08 N07 N08 1.18e-11
R08 N07 N08 3.22e-01
L09 N08 N09 2.56e-11
R09 N08 N09 1.00e-01
L10 N09 N10 5.70e-11
R10 N09 N10 3.01e-02
L11 N10 N11 2.11e-10
R11 N10 N11 1.32e-02
C12 N11 N12 4.16e-05
L12 N11 N12 3.30e-11
R12 N11 N12 1.43e-03
C13 N12 Port2 1.18e-05
L13 N12 Port2 5.69e-11
R13 N12 Port2 2.43e-03
.ENDS GRJ155R60J106ME11
